US06262161B1
PREPARATION OF THE ETHYLENE/STYRENE INTERPOLYMERS (ESI's) 1-17
3,5,6,7-Tetrahydro-s-Hydrindacen-1(2H)-one (12.00 g, 0.06967 moles) was stirred in diethylether (200 mL) at 0° C. as PhMgBr (0.105 moles, 35.00 mL of 3.0 M solution in diethylether) was added slowly. This mixture was then allowed to stir overnight at room temperature. After the reaction period the mixture was quenched by pouring over ice. The mixture was then acidified (pH=1) with HCl and stirred vigorously for 2 hours. The organic layer was then separated and washed with H2O (2×100 mL) and then dried over MgSO4. Filtration followed by the removal of the volatiles resulted in the isolation of the desired product as a dark oil (14.68 g, 90.3% yield).

reactant | PhMgBr | 0.105 moles, 3.0 M, 35.00 mL | C1(=CC=CC=C1)[Mg]Br
reactant | diethylether | 200 mL | C(C)OCC | C4H10O
product | ETHYLENE/STYRENE | 14.68 g, 90.3% yield | C=C.C=CC1=CC=CC=C1 | InChI=1S/C8H8.C2H4/c1-2-8-6-4-3-5-7-8;1-2/h2-7H,1H2;1-2H2
